US04301159
A mixture of N-(diethylaminoethyl)-2-methoxy-3-methyl-5-nitrobenzamide (4.25 g), platinum oxide (425 mg) and methanol (85 ml) is shaken in a hydrogen stream. After absorption of hydrogen stops, the reaction mixture is filtered to remove the catalyst. The filtrate is concentrated under vacuum and the residue is chromatographed on a column of alumina, which is eluated with methylene chloride to methylene chloride-2% methanol. The eluate is concentrated under vacuum and the residue is washed with isopropyl ether to give N-(diethylaminoethyl)-5-amino-2-methoxy-3-methylbenzamide (2.38 g) as crystals melting at 56° to 57° C.

reactant | N-(diethylaminoethyl)-2-methoxy-3-methyl-5-nitrobenzamide | 4.25 g | C(C)N(CC)CCNC(C1=C(C(=CC(=C1)[N+](=O)[O-])C)OC)=O | C15H23N3O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 425 mg | [Pt]=O
solvent | methanol | 85 ml | CO | CH4O
product | N-(diethylaminoethyl)-5-amino-2-methoxy-3-methylbenzamide | 2.38 g | C(C)N(CC)CCNC(C1=C(C(=CC(=C1)N)C)OC)=O | C15H25N3O2
